US07723349B2
5-Bromo-2-methylphenyldiazonium tetrafluoroborate (1.50 g) was added to a mixture of potassium acetate (1.0 g) and 18-crown-6 (70 mg) in chloroform (50 mL) at room temperature in portions and then the reaction was stirred for 2 h. The resulting mixture was filtered and washed with chloroform. The filtrate was concentrated, and the residue was dissolved in diethyl ether, which was then washed with water, brine, dried, and the solvent was removed to give the product 6-bromoindazole (0.9 g). The product was used in the next step without further purification.

reactant | 5-Bromo-2-methylphenyldiazonium tetrafluoroborate | 1.50 g | F[B-](F)(F)F.BrC=1C=CC(=C(C1)[N+]#N)C
reactant | potassium acetate | 1.0 g | C(C)(=O)[O-].[K+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | 18-crown-6 | 70 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 6-bromoindazole | 0.9 g | BrC1=CC=C2C=NNC2=C1 | C7H5BrN2
